US06878718B2
4-Acetonyl-3-cyanopyridine
A solution of 4-methyl-3-cyanopyridine (4 g, 33.9 mmol) and N,N-dimethylacetamide dimethylacetal (5.4 g, 40.6 mmol) in dry DMF (20 ml) was stirred at 130 for 7 h. The volatiles were removed in vacuo to afford a dark oil which solidified on standing. This material was chromatographed (SiO2; 50% EtOAc/Hexane—100% EtOAc) affording the title compound as an off-yellow solid (3.73 g, 69%). δH (CDCl3) 8.87 (1H, s), 8.74 (1H, d, J 5.2 Hz), 7.28 (1H, d, J 5,2 Hz), 4.00 (2H, s) and 2.36 (3H, s); m/z (ES+, 70V) 161 (MH+).

reactant | 4-methyl-3-cyanopyridine | 33.9 mmol, 4 g | CC1=C(C=NC=C1)C#N | C7H6N2
reactant | N,N-dimethylacetamide dimethylacetal | 40.6 mmol, 5.4 g | COC(C)(N(C)C)OC | C6H15NO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-Acetonyl-3-cyanopyridine | 3.73 g, 69% | C(C(=O)C)C1=C(C=NC=C1)C#N | C9H8N2O
